US05506219
A. (3-Methyl-1-methylenebutyl)benzene
Chloro-(2-methylpropyl)magnesium (150 ml, 0.300 mol, from Aldrich) was added over 20 minutes to a solution of benzonitrile (10.21 ml, 0.100 mol, from Aldrich) in ether (150 ml), stirring under argon at room temperature. The solution was allowed to stir under argon at room temperature for 18 hours. The reaction mixture was then cooled to 0° C. and 1.2N HCl (125 ml) was added. The aqueous layer was extracted with ether (twice), and the organic layers were combined and washed with brine and dried over MgSO4, filtered and concentrated to a yellow oil. The oil was purified by flash chromatography on Merck silica gel in 2% EtOAc in hexane. Fractions containing the product were combined and concentrated to afford the title compound as a yellow oil (13.305 gm, 83%).

reactant | Chloro-(2-methylpropyl)magnesium | 0.300 mol, 150 ml | Cl[Mg]CC(C)C
reactant | benzonitrile | 0.100 mol, 10.21 ml | C(C1=CC=CC=C1)#N | C7H5N
reactant | HCl | 1.2N, 125 ml | Cl | ClH
reactant | ether | 150 ml | CCOCC | C4H10O
product | (3-Methyl-1-methylenebutyl)benzene | 13.305 gm, 83% | CC(CC(=C)C1=CC=CC=C1)C | C12H16
